US06982348B2
To a solution of ethyl 5-methyl-2-(trifluoromethyl)-3-furancarboxylate (25 g, 113 mmol) in ethanol (200 ml) was added 2N aqueous sodium hydroxide solution (61.9 ml, 123.8 mmol) and the mixture was heated under reflux for 45 min. The reaction solution was concentrated, diluted with water (150 ml), and 6N hydrochloric acid was gradually added to adjust to about pH 5. The precipitated crystals were collected by filtration, washed with water to give 5-methyl-2-(trifluoromethyl)-3-furancarboxylic acid (20.5 g, 94%).

reactant | ethyl 5-methyl-2-(trifluoromethyl)-3-furancarboxylate | 113 mmol, 25 g | CC1=CC(=C(O1)C(F)(F)F)C(=O)OCC | C9H9F3O3
reactant | sodium hydroxide | 123.8 mmol, 2N, 61.9 ml | [OH-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 5-methyl-2-(trifluoromethyl)-3-furancarboxylic acid | 20.5 g, 94% | CC1=CC(=C(O1)C(F)(F)F)C(=O)O | C7H5F3O3
